US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-[(3-phenyl)-phenyl-oxy]-pyrazine, CJS 493
Using Method EE (reaction time: 4 hours) with 2-chloro-6-[(3-phenyl)-phenyl-oxy]-pyrazine (100 mg, 0.35 mmol) and 3,4,5-trimethoxyaniline (84 mg, 0.46 mmol), and purification by column chromatography (AcOEt), the title compound was obtained (117 mg). Yield: 78%.

reactant | 2-chloro-6-[(3-phenyl)-phenyl-oxy]-pyrazine | 0.35 mmol, 100 mg | ClC1=NC(=CN=C1)OC1=CC(=CC=C1)C1=CC=CC=C1 | C16H11ClN2O
reactant | 3,4,5-trimethoxyaniline | 0.46 mmol, 84 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-[(3-phenyl)-phenyl-oxy]-pyrazine | Yield: 78% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC(=CC=C1)C1=CC=CC=C1 | C25H23N3O4
